US05220042
118.0 Milligrams (0.17 mmole) of bis{5-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]pentyl} sulfide was dissolved in a mixed solvent of 1 ml of tetrahydrofuran--1 ml of isopropanol. The gas phase in the reaction vessel was replaced three times with argon gas under reduced pressure deaeration. 0.2 Milliliters of tetrahydrofuran-isopropanol solution containing 20% (by weight) of hydrogen chloride was added to the reaction vessel, and the reaction mixture was stirred at room temperature for 1 hour, then the temperature was elevated to 70° C., and the reaction was completed in an hour. The solvent was removed by evaporation under reduced pressure, then 2 ml of benzene was added to the residue, this mixture was further treated under reduced pressure to obtain light brawn oily product. This product was dissolved in 5 ml of methanol without purified, then this solution was heated to 40° C., a small amount of sodium hydrogen carbonate was added thereto, and oxygen gas was bubbled therein, and the reaction was completed in about 1 hour. The solvent was removed under reduced pressure, and the residue obtained was treated by means of a silica gel preparative thin layer chromatography (thickness: 1 mm, developing solvent: 50% ethyl acetate-n-hexane) to obtain 60.5 mg of bis[5-(3,6-dimethoxy-1,4-benzoquinon-2-yl)pentyl] sulfide. Yellow oily substance.

reactant | bis{5-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]pentyl} sulfide | 0.17 mmole | COC1=C(C(=C(C=C1OCOC)OC)OCOC)CCCCCSCCCCCC1=C(C(=CC(=C1OCOC)OC)OCOC)OC | C34H54O12S
reactant | tetrahydrofuran isopropanol | O1CCCC1.C(C)(C)O
reactant | hydrogen chloride | Cl | ClH
reactant | ethyl acetate n-hexane | C(C)(=O)OCC.CCCCCC
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | methanol | 5 ml | CO | CH4O
product | bis[5-(3,6-dimethoxy-1,4-benzoquinon-2-yl)pentyl] sulfide | 60.5 mg | COC1=C(C(C(=CC1=O)OC)=O)CCCCCSCCCCCC=1C(C(=CC(C1OC)=O)OC)=O | C26H34O8S
